US07776864B2
Step 2: N,N-dimethyl-6-phenyl-5-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)[1,2,4]triazolo[1,5-a]pyrimidin-2-amine
0.138 ml triethylamine are added to a solution of 207 mg 2-(5-piperidin-4H[1,2,4]triazol-3-yl)-pyridine*2HCl (prepared from tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate and pyridine-2-carbonitrile according to a procedure described in U.S. Pat. No. 4,011,218 or WO2005100344) in 10 ml methanol. To this solution a solution of 196 mg 4-[2-(dimethylamino)-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]benzaldehyde in 10 ml DMF is added, followed by 0.09 ml glacial acetic acid and 242 mg NaBH(OAc)3. The resulting mixture is stirred at room temperature. Two additional portions of 2 equivalents NaBH(OAc)3 are added after 1 and 2 hours. The solvent is removed by evaporation after 3 h and the residue is dissolved in dichloromethane and water. The phases are separated and the water phase is extracted with dichloromethane. The combined organic layers are dried over Na2SO4 and the solvent is evaporated. The crude product is purified by RP HPLC (water, 10 mM NH4COOH, pH 3.7/ACN) to yield the desired compound.

reactant | tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate | N(N)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | pyridine-2-carbonitrile | N1=C(C=CC=C1)C#N | C6H4N2
reactant | 4-[2-(dimethylamino)-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]benzaldehyde | 196 mg | CN(C1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1)C | C20H17N5O
reactant | NaBH(OAc)3 | 242 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 2 equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 0.09 ml | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.138 ml | C(C)N(CC)CC | C6H15N
product | N,N-dimethyl-6-phenyl-5-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)[1,2,4]triazolo[1,5-a]pyrimidin-2-amine | CN(C1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC=CC=C2)=N1)C | C32H32N10
